US06346527B1
To a mixture of ethyl 9-amino-2,3-dihydro-1-benzoxepin-4-carboxylate (1.0 g) and triethylamine (4.18 ml) in tetrahydrofuran (10 ml) was added dimethylsulfamoyl chloride (2.30 ml) at 5° C. The reaction mixture was stirred overnight at ambient temperature and partitioned between ethyl acetate and 1N hydrochloric acid. The organic layer was washed successively with saturated aqueous sodium bicarbonate and brine, dried over anhydrous magnesium sulfate, and evaporated in vacuo. The residue was purified by column chromatography on silica gel using a mixture of n-hexane and ethyl acetate (4:1) to give ethyl 2,3-dihydro-9-dimethylsulfamoylamino-1-benzoxepin-4-carboxylate (0.89 g).

reactant | ethyl 9-amino-2,3-dihydro-1-benzoxepin-4-carboxylate | 1.0 g | NC1=CC=CC=2C=C(CCOC21)C(=O)OCC | C13H15NO3
reactant | triethylamine | 4.18 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylsulfamoyl chloride | 2.30 ml | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | ethyl 2,3-dihydro-9-dimethylsulfamoylamino-1-benzoxepin-4-carboxylate | 0.89 g | CN(S(=O)(=O)NC1=CC=CC=2C=C(CCOC21)C(=O)OCC)C | C15H20N2O5S
